US07309703B2
2-(4-{3-[5-Acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2fluoro-propyl}-piperazin-1-yl)-benzonitrile
A solution of 2-(4-{3-[5-acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile (150 mg, 0.27 mmol) in CH2Cl2 (1 mL) was treated with DAST (Et2NSF3, 7 μL, 0.60 mmol) at −78° C. The reaction mixture was slowly warmed to 25° C. for 1 h and then to 60° C. for an additional 2 h. Preparative TLC (silica, 5% MeOH/CH2Cl2) provided 75 mg (50%) of the title compound as a light yellow powder. TLC (5% MeOH/CH2Cl2): Rf=0.28. MS (electrospray): m/z 555.2 ([M+H]+, C29H30F4N6O requires 554.2). 1H NMR (CDCl3, 400 MHz, a mixture of two rotamers): 7.71 and 7.59 (AB pattern, Jab=8.2 Hz, 2H), 7.66 and 7.62 (AB pattern, Jab=8.4 Hz, 2H), 7.50-7.38 (m, 2H), 6.96-6.92 (m, 2H), 5.01 (dp, J=49.0, 3.0 Hz, 1H), 4.77 and 4.73 (AB pattern, Jab=15.7 Hz, 1.1 H), 4.59 (s, 0.9H), 4.41-4.18 (m, 2H), 3.95-3.80 (m,1H), 3.69 (dd, J=5.5, 5.5 Hz, 1H), 3.18 (m, 4H), 2.83-2.65 (m, 8H), 2.14 (s, 1.6H), 2.10 (s, 1.4H).

reactant | 2-(4-{3-[5-acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile | 0.27 mmol, 150 mg | C(C)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CC(CN2CCN(CC2)C2=C(C#N)C=CC=C2)O | C29H31F3N6O2
reactant | DAST | 0.60 mmol, 7 μL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{3-[5-Acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2fluoro-propyl}-piperazin-1-yl)-benzonitrile | 75 mg, 50% | C(C)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CC(CN2CCN(CC2)C2=C(C#N)C=CC=C2)F | C29H30F4N6O
